US05436359
6-(6-Carboxy-1-phenylhexyl)-2,3,5-trimethylbenzoquinone (29 g) was suspended in ether (500 ml). Diazomethane/ether solution was added until the raw material was disappeared on thin-layer chromatography. Then the ether layer was washed with water, dried over anhydrous sodium sulfate and concentrated. The concentrate was subjected to short column chromatography using silica gel (500 ml) and eluted with hexane/dichloromethane (1:1) to obtain 6-(6-methoxycarbonyl-1-phenylhexyl)-2,3,5-trimethylbenzoquinone (25.5 g) as an orange oil. This oil was dissolved in ether (200 ml) and stirred at room temperature for 1.5 hours with a solution containing sodium hydrosulfite (52 g) in water (200 ml). The ether layer was separated and washed with saturated brine, dried over anhydrous sodium sulfate and concentrated to obtain 6-(6-methoxycarbonyl-1-phenylhexyl)-2,3,5-trimethylhydroquinone (25.5 g). Then this compound was dissolved in dichloromethane (35 ml), imidazole (9.37 g, 2 eq.) was added, tert-butyldiphenylsilyl chloride (28.36 g, 1.5 eq.) was added dropwise with stirring at room temperature and the mixture was allowed to react overnight. The deposited imidazole hydrochloride was filtered off, and the filtrate was concentrated. The concentrate was subjected to column chromatography on silica gel (800 ml) and eluted with dichloromethane/hexane (2:1) to obtain the desired compound as a pale yellow viscous oil (46 g).

reactant | 6-(6-Carboxy-1-phenylhexyl)-2,3,5-trimethylbenzoquinone | 29 g | C(=O)(O)CCCCCC(C1=CC=CC=C1)C1=C(C(C(=C(C1=O)C)C)=O)C | C22H26O4
reactant | Diazomethane ether | [N+](=[N-])=C.CCOCC
solvent | ether | 500 ml | CCOCC | C4H10O
product | 6-(6-methoxycarbonyl-1-phenylhexyl)-2,3,5-trimethylbenzoquinone | 25.5 g | COC(=O)CCCCCC(C1=CC=CC=C1)C1=C(C(C(=C(C1=O)C)C)=O)C | C23H28O4
